US07674789B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N,N-dimethylbenzamide
To the solution of 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid (23 mg, 0.05 mmol) in CH2Cl2 (3 mL) were added dimethylamine (2.0 M soln. in THF, 0.0275 mL, 0.055 mmol), HATU (20 mg, 0.052 mmol) and diisopropyl ethyl amine (0.05 mL, 0.3 mmol). The reaction mixture was stirred over night. The reaction mixture was diluted with CH2Cl2 (5 mL) and water (5 mL) and shaked. The layers were separated and the organic layer was washed with brine (8 mL), dried over Na2SO4, filtered and concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) then provided the title compound as a white solid (10 mg, 41%). LC-MS m/z 496 (M+H)+; 1H-NMR (MeOD) δ 2.15 (s, 6H), 2.36 (m, 2H), 3.15 (s, 3H), 3.06 (s, 3H), 3.23 (m, 2H), 4.46 (s, 2H), 7.14 (m, 2H), 7.12 (m, 1H), 7.56 (m, 4H).

reactant | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid | 0.05 mmol, 23 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2)NCCN(C)C)=O | C23H22F2N6O3
reactant | dimethylamine | 0.055 mmol, 2.0 M, 0.0275 mL | CNC | C2H7N
reactant | HATU | 0.052 mmol, 20 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethyl amine | 0.3 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N,N-dimethylbenzamide | 10 mg, 41% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)N(C)C)C=CC2)NCCN(C)C)=O | C25H27F2N7O2
